US07169797B2
2,2-dimethyl-4-vinyl-1,3-dioxolane
3-Butene-1,2-diol (5.00 g, 56.7 mmol), acetone (9.88 g, 170 mmol), 2,2-dimethoxy propane (17.7 g, 170 mmol), and p-toluene sulfonic acid (1.62 g, 8.5 mmol) were added to benzene (100 mL). After 16 hours of reflux, starting material was observed by TLC. 2,2-Dimethoxy propane (9.99 g, 95.1 mmol) and acetone (1.58 g, 27.3 mmol) were then added, followed by an additional 3 hour reflux. The mixture was washed with saturated aqueous NaHCO3 and extracted with EtOAc (3×40 mL). The organic extracts were dried over MgSO4, filtered, concentrated and purified by column chromatography (5% ethyl acetate in hexanes) to provide the titled compound (4.12 g, 57%) as a light yellow oil.

reactant | 3-Butene-1,2-diol | 56.7 mmol, 5.00 g | C(C(C=C)O)O | C4H8O2
reactant | acetone | 170 mmol, 9.88 g | CC(=O)C | C3H6O
reactant | 2,2-dimethoxy propane | 170 mmol, 17.7 g | COC(C)(C)OC | C5H12O2
reactant | p-toluene sulfonic acid | 8.5 mmol, 1.62 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2,2-Dimethoxy propane | 95.1 mmol, 9.99 g | COC(C)(C)OC | C5H12O2
reactant | acetone | 27.3 mmol, 1.58 g | CC(=O)C | C3H6O
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 2,2-dimethyl-4-vinyl-1,3-dioxolane | 4.12 g, 57% | CC1(OCC(O1)C=C)C | C7H12O2
